US05064959
4-(4,6-Bis(trichloromethyl)-s-triazin-2-yl)-benzoic acid (87 pw) is added to thionyl chloride (350 pw). Upon heating to reflux in the absence of moisture and with vigorous stirring, a distinct evolution of SO2 can be observed. After 6 hours, a clear solution is present. Excess thionyl chloride is distilled, towards the end by applying a vacuum. The residue containing in virtually quantitative yield pure 4-(4,6-bis(trichloromethyl)-s-triazin-2-yl)benzoyl chloride is recrystallized from hexane, m.p. 100 to 101° C.

reactant | 4-(4,6-Bis(trichloromethyl)-s-triazin-2-yl)-benzoic acid | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C1=CC=C(C(=O)O)C=C1)(Cl)Cl | C12H5Cl6N3O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4-(4,6-bis(trichloromethyl)-s-triazin-2-yl)benzoyl chloride | quantitative yield | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C1=CC=C(C(=O)Cl)C=C1)(Cl)Cl | C12H4Cl7N3O
